US08871943B2
Methyl 4-(amino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate was prepared in analogous fashion to isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate in Example 10 except that methyl 4-amino-3,6-dichloro-5-fluoropicolinate was used in place of isopropyl 4-amino-6-bromo-5-fluoropicolinate: mp=169-171° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.46 (dd, J=8.8, 1.6 Hz, 1H), 7.29 (dd, J=8.8, 7.2 Hz, 1H), 7.10 (s, 2H), 3.93 (s, 3H), 3.87 (s, 3H); 13C NMR (100.6 MHz, DMSO-d6) δ 164.8, 154.3, 151.8, 146.2, 144.5, 143.9-143.7 (m), 141.6 (d, JF-C=14.0 Hz), 136.3 (d, JF-C=13.4 Hz), 128.5 (d, JF-C=2.6 Hz), 125.5 (d, JF-C=3.6 Hz), 122.9 (d, JF-C=13.7, 4.0 Hz), 61.6 (d, JF-C=4.2 Hz), 52.7; 19F {1H} NMR (376.5 MHz, DMSO-d6) δ −129.2 (d, JF-F=27.5 Hz), −137.7 (d, JF-F=27.1 Hz); IR: 3482, 3381, 2950, 1741, 1612, 1466, 1423, 1366, 1228, 1202, 1045, 970, 905, 815; MS Calcd. for C14H11Cl2F2N2O3: 362.0. Found: 362 (M+), 304.

reactant | isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C | C16H15ClF2N2O3
reactant | methyl 4-amino-3,6-dichloro-5-fluoropicolinate | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
product | Methyl 4-(amino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)Cl | C14H10Cl2F2N2O3
